US04387230
1-Benzyl-5-hydroxy-1,2,5,6-tetrahydro-3-(p-tolyl)pyridine
A solution of 1-benzyl-1,6-dihydro-5-(p-tolyl)-3-[2H]-pyridone hydrochloride hydrate (4.7 g) in ethanol (100 ml) was treated with sodium bicarbonate (1.2 g), followed by sodium borohydridge (1 g). After 1 hour the solvents were removed under reduced pressure and the residue partitioned between water (50 ml) and ether (200 ml). The ether layer was dried and the solvent removed under reduced pressure to give the title compound as an oil (3.5 g).

reactant | 1-benzyl-1,6-dihydro-5-(p-tolyl)-3-[2H]-pyridone hydrochloride hydrate | 4.7 g | O.Cl.C(C1=CC=CC=C1)N1CC(C=C(C1)C1=CC=C(C=C1)C)=O
reactant | sodium bicarbonate | 1.2 g | C([O-])(O)=O.[Na+]
reactant | sodium | [Na] | Na
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-Benzyl-5-hydroxy-1,2,5,6-tetrahydro-3-(p-tolyl)pyridine | 3.5 g | C(C1=CC=CC=C1)N1CC(=CC(C1)O)C1=CC=C(C=C1)C | C19H21NO
